US09193721B2
Step C: Methyl 6-amino-5-chloro-2-(3-fluorophenyl)nicotinate
A solution of methyl 5-chloro-6-[(3,4-dimethoxybenzyl)amino]-2-(3-fluorophenyl)nicotinate (0.11 g, 0.26 mmol) in trifluoroacetic acid (4 mL, 50 mmol) was heated at 60° C. for 22 hours. The reaction mixture was concentrated, diluted with methanol, and filtered. The filtrate was concentrated and purified via RP-HPLC (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (56 mg, 75%). LCMS calculated for C13H11ClFN2O2 (M+H)+: m/z=281.0. found: 280.8.

reactant | methyl 5-chloro-6-[(3,4-dimethoxybenzyl)amino]-2-(3-fluorophenyl)nicotinate | 0.26 mmol, 0.11 g | ClC=1C(=NC(=C(C(=O)OC)C1)C1=CC(=CC=C1)F)NCC1=CC(=C(C=C1)OC)OC | C22H20ClFN2O4
reactant | trifluoroacetic acid | 50 mmol, 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 6-amino-5-chloro-2-(3-fluorophenyl)nicotinate | 56 mg, 75% | NC1=NC(=C(C(=O)OC)C=C1Cl)C1=CC(=CC=C1)F | C13H10ClFN2O2
